US07902237B2
To a stirred solution of 3-benzyl-5-{[N-(4-methoxyphenyl)-methylamino]-methylene}-2-thioxothiazolidin-4-one (0.25 g, 0.67 mmol) in DCM (6 mL, anhyd) chilled to −78° C. was added dropwise a 1.0 M solution of boron tribromide in DCM (4.0 mL, 4.0 mmol). The reaction flask was removed from the dry-ice bath and allowed to warm to ambient temperature. After 4 h the reaction flask was chilled again to −78° C., and the reaction mixture was quenched by addition of MeOH (30 mL). The reaction mixture then was concentrated under reduced pressure and chromatographed (silica gel, DCM) to afford 3-benzyl-5-{[N-(4-hydroxyphenyl)-methylamino]-methylene}-2-thioxothiazolidin-4-one (0.16 g, 67%) as a yellow solid. 1H-NMR (CDCl3): δ 7.73 (1H, s), 7.44 (2H, d), 7.23-7.31 (3H, m), 7.07 (2H, m), 6.89 (2H, m), 5.30 (1H, s), 5.24 (2H, s), 3.49 (3H, s).

reactant | 3-benzyl-5-{[N-(4-methoxyphenyl)-methylamino]-methylene}-2-thioxothiazolidin-4-one | 0.67 mmol, 0.25 g | C(C1=CC=CC=C1)N1C(SC(C1=O)=CN(C1=CC=C(C=C1)OC)C)=S | C19H18N2O2S2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 4.0 mmol, 4.0 mL | C(Cl)Cl | CH2Cl2
product | 3-benzyl-5-{[N-(4-hydroxyphenyl)-methylamino]-methylene}-2-thioxothiazolidin-4-one | 0.16 g, 67% | C(C1=CC=CC=C1)N1C(SC(C1=O)=CN(C1=CC=C(C=C1)O)C)=S | C18H16N2O2S2
